Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Toxic ingestion
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o F w/ no remarkable PMHX who presented to 
the ED after consuming 32 Benadryl pills while drinking a
bottle of wine. This was a suicide attempt. She was found by a 
friend approximately 15
minutes after ingestion and brought to the ED. 

In the ED, Patient was initially alert, talking, and ambulating
without assistance. Progressively became less responsive per RN.
___ MD ___, unable to provide hx or ROS. Patient was flinging
herself around the bed and flailing about. Oriented to name 
only. She was given Physostigmine 1mg @ 0100 and Lorazepam 2mg 
x2.
 
Discussed with patient's friends, patient ingested around
midnight and called her friends tearful. Has had self-harm
behaviors before with cutting (wrists/hips) but no known actual
suicide attempts. No known medical problems, does not take any
daily medications per their knowledge other than OCPs. Patient
drinks socially. No known allergies per friends.

 
Past Medical History:
None
 
Social History:
___
Family History:
None pertinent
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: HR 107 BP139/84 PO2 100 on 6L
GEN: Lethargic. NAD
EYES: Mydriasis. Roving eye movements. Anicteric
HENNT:  No JVP. OP w/o blood. ATNC.
CV:  Tachycardic. No MRG.
RESP: CTA B/l
GI:  Decreased bowel sounds. Distended suprapubic region. No
guarding
SKIN: No bruising/areas of skin breakdown
EXT: Pulses 2+ b/l. No edema
NEURO:  Eyes open. Pupils 5mm. EOMI. Moving all extremities.
PSYCH:  Not able to assess

DISCHARGE PHYSICAL EXAM: 
======================== 
VITALS:24 HR Data (last updated ___ @ 614)
    Temp: 97.9 (Tm 98.2), BP: 110/72 (110-145/72-96), HR: 68
(68-99), RR: 18 (___), O2 sat: 98% (98-99), O2 delivery: Ra,
Wt: 141.31 lb/64.1 kg  
GEN: A&Ox3 in NAD. lying in bed with blanket. 1:1 sitter present
HENNT:  pupils equal and reactive, no scleral icterus or
conjunctival injection
CV:  RRR, no murmur
RESP: clear bilaterally, no increased WOB
GI:  soft, nontender, non distended
SKIN: No bruising/areas of skin breakdown, no rash, no sweating
EXT: warm, no ___ edema
NEURO: A&Ox3, moving all extremities, no tremor
PSYCH: minimal eye contact but responds appropriately to
questions, often gives one word answers, flat affect. not
agitated. 

 
Pertinent Results:
Admission Labs:

___ 01:00AM BLOOD WBC-13.8* RBC-4.77 Hgb-13.8 Hct-42.0 
MCV-88 MCH-28.9 MCHC-32.9 RDW-13.2 RDWSD-42.5 Plt ___
___ 01:00AM BLOOD Neuts-68.6 ___ Monos-7.9 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-9.50* AbsLymp-2.98 AbsMono-1.09* 
AbsEos-0.12 AbsBaso-0.07
___ 01:00AM BLOOD Plt ___
___ 01:00AM BLOOD Glucose-97 UreaN-13 Creat-0.7 Na-139 
K-3.4* Cl-99 HCO3-24 AnGap-16
___ 10:00AM BLOOD ALT-17 AST-36 CK(CPK)-143 AlkPhos-41 
TotBili-0.5
___ 01:00AM BLOOD Calcium-10.0 Phos-3.6 Mg-2.0
___ 01:00AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 01:00AM BLOOD GreenHd-HOLD
___ 01:00AM BLOOD
___ 04:23AM BLOOD ___ Temp-36.9 pO2-51* pCO2-44 
pH-7.37 calTCO2-26 Base XS-0
___ 04:23AM BLOOD Glucose-87 Lactate-1.5
___ 04:23AM BLOOD freeCa-1.17

Relevant Labs:

___ 05:58AM BLOOD ___ PTT-26.3 ___
___ 01:00AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 04:23AM BLOOD ___ Temp-36.9 pO2-51* pCO2-44 
pH-7.37 calTCO2-26 Base XS-0
___ 04:23AM BLOOD Glucose-87 Lactate-1.5

ECG ___
Sinus tachycardia
QT/QTc 394/516
When compared with ECG of ___ 02:31,
multiple findings are as reported including QTc prolongation. P 
wave less negative in V1, but lead placment may
not be equivalent.
Electronically signed by MD ___ (40) on ___ 
4:43:48 ___
 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman who was initially admitted to the 
ICU with anticholinergic toxidrome s/p suicide attempt via 
diphenhydramine ingestion. She was medically stabilized and was 
transferred to inpatient psychiatric care. 
 
#Antihistamine Overdose
#Tachycardia
Patient consumed 1600mg (32x 50mg)of diphenhydramine in suicide 
attempt. Tox
screen with ethanol, othwerise neg. She presented w/ normal 
mental
status progressing to significant agitation, tachycardia,
mydriasis, HTN. Initially admitted to the MICU for about 24 
hours. Was initially non-responsive,
delirious, with hallucinations. She was given physostigmine 
1.5mg and Ativan for agitation. Mental status normalized. 
Required Foley for urinary retention but this also resolved. QTc 
prolonged as high as 516, improved to 457 prior to discharge. 

#SI
Pt confirms this overdose was a suicide attempt. She was placed 
under a ___ and psychiatry was consulted, who recommended 
inpatient admission.

#Leukocytosis
13.4 on admission, since resolved--likely reactive to acute 
stress. No concern for infection.

#Eczema
Continued home topical treatments.

TRANSITIONAL ISSUES
====================
[] Continue active inpatient level psychiatric care
[] consider as needed benzodiazepine for agitation
[] anticipate discharge from inpatient psychiatric admission on 
antidepressant medication 
[] also ingested alcohol upon admission. please evaluate and 
treat for alcohol use disorder
[] please continue to evaluate patient's social support during 
psychiatric admission

#CODE: Full presumed
#Emergency CONTACT:
**Mom ___
**Dad ___

>30 min spent on discharge planning including face to face time
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluocinonide 0.05% Cream 1 Appl TP BID 
2. econazole 1 % topical DAILY 

 
Discharge Medications:
1.  econazole 1 % topical DAILY  
2.  Fluocinonide 0.05% Cream 1 Appl TP BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Antimuscarinic toxicity, Suicide Attempt
Secondary: Urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ due to a toxic ingestion. You 
were initially in the intensive care unit for monitoring. Your 
mental status quickly improved.

Our Psychiatry specialists determined that you should have 
ongoing inpatient mental health care. This will occur at a 
different hospital.

We wish you the very best!

Your ___ Care Team 
 
Followup Instructions:
___